US05401772
4-Benzyloxy-3-isopropylphenyl acetate (5.59 kg, 19.7 mol) is added to a solution of sodium hydroxide (1.20 kg, 30.0 mol) in a mixture of water (30 L) and methanol (30 L). This solution is stirred at 24° for 1 hour. A black-colored solution develops. This is concentrated in vacuo (40°, 3 Torr) to remove the methanol. This residue is then extracted with ethyl acetate (2×16 L) and the combined organic layers are washed with aqueous sodium hydroxide (1 N, 2×10 L) and water (3×12 L). The solvent is stripped in vacuo (50°, 3 Torr) to yield an amber oil. This oil is then trimmed with heptane (10 L) for 4 hours and the allowed to stand overnight at room temperature at which time the solids are collected by filtration and washed with cold heptane (2×1 L). After air-drying, the product is further dried in vacuo (25°, 120 Torr) for 72 hours to give 4-benzyloxy-3-isopropylphenol as a low melting solid, m.p. 39°-40°.

reactant | 4-Benzyloxy-3-isopropylphenyl acetate | 19.7 mol, 5.59 kg | C(C)(=O)OC1=CC(=C(C=C1)OCC1=CC=CC=C1)C(C)C | C18H20O3
reactant | sodium hydroxide | 30.0 mol, 1.20 kg | [OH-].[Na+]
reactant | heptane | 10 L | CCCCCCC | C7H16
solvent | water | 30 L | O | H2O
solvent | methanol | 30 L | CO | CH4O
product | 4-benzyloxy-3-isopropylphenol | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)O)C(C)C | C16H18O2
